US04863504
Preparation of (E)-2-[1-(3-chloro-2-propenyloxyimino) propyl]-5-(1-methyl-1H-pyrazol-5-yl)-cyclohexane-1,3-dione (Compound No. 2)
To 5 ml of an ethanolic solution of 0.35 g (1.4 mmols) of 5-(1-methyl-1H-pyrazol-5-yl)-2-propionylcyclohexane-1,3-dione was added 3.8 ml (1.4 mmols) of 0.38 mol ethanolic solution of (E)-3-chloro-2-propenyloxyamine. The mixture was reacted for 10 hours with stirring. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=b 1:2) to give 0.25 g of the product.

reactant | 5-(1-methyl-1H-pyrazol-5-yl)-2-propionylcyclohexane-1,3-dione | 1.4 mmols, 0.35 g | CN1N=CC=C1C1CC(C(C(C1)=O)C(CC)=O)=O | C13H16N2O3
reactant | (E)-3-chloro-2-propenyloxyamine | Cl/C=C/CON | C3H6ClNO
product | (E)-2-[1-(3-chloro-2-propenyloxyimino) propyl]-5-(1-methyl-1H-pyrazol-5-yl)-cyclohexane-1,3-dione | 0.25 g | ClC=CCO\N=C(/CC)\C1C(CC(CC1=O)C1=CC=NN1C)=O | C16H20ClN3O3
